US05407936
2,5-Dichloro-1-isopropyl-6-nitrobenzimidazole (4.6 g) was suspended in toluene (31 ml) and to the suspension was added dropwise N-methylpiperazine (8.4 g) and then the mixture was refluxed for 30 minutes. To the reaction solution was added ethyl acetate and the mixture was washed with water and then extracted with 2N hydrochloric acid. The water layer was separated and made basic with an aqueous sodium hydroxide solution and then extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure to give 5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)-6-nitrobenzimidazole (4.8 g). A part of the obtained product was recrystallized from acetonitrile, which showed the physical properties consistent with those in Preparation 8.

reactant | 2,5-Dichloro-1-isopropyl-6-nitrobenzimidazole | 4.6 g | ClC1=NC2=C(N1C(C)C)C=C(C(=C2)Cl)[N+](=O)[O-] | C10H9Cl2N3O2
reactant | N-methylpiperazine | 8.4 g | CN1CCNCC1 | C5H12N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 31 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-1-isopropyl-2-(4-methyl-1-piperazinyl)-6-nitrobenzimidazole | 4.8 g | ClC1=CC2=C(N(C(=N2)N2CCN(CC2)C)C(C)C)C=C1[N+](=O)[O-] | C15H20ClN5O2
